US05912256
1-benzyl-4-hydroxy-4-(naphth-1-yl)piperidine
A solution of 48.7 mL (63.3 mMol) sec-butyllithium (1.3 M in tetrahydrofuran) was added to a solution of 10.0 gm (42.2 mMol) 1-bromonaphthalene in 200 mL tetrahydrofuran at -78° C. The reaction mixture was stirred at that temperature for 1.5 hours and to it was then added a solution of 8.2 mL (44.3 mMol) 1-benzyl-4-piperidone in 40 mL tetrahydrofuran dropwise. The reaction mixture was allowed to warm to room temperature and was then quenched by the addition of 2N sodium hydroxide. The resulting mixture was extracted well with diethyl ether. The combined organic extracts were washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with dichloromethane which contained 0-2% methanol. Fractions containing product were combined and concentrated under reduced pressure to provide 4.34 gm (32%) of the desired compound as a white foam.

reactant | sec-butyllithium | 63.3 mMol, 1.3 M, 48.7 mL | C(C)(CC)[Li]
reactant | 1-bromonaphthalene | 42.2 mMol, 10.0 gm | BrC1=CC=CC2=CC=CC=C12 | C10H7Br
reactant | 1-benzyl-4-piperidone | 44.3 mMol, 8.2 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-benzyl-4-hydroxy-4-(naphth-1-yl)piperidine | 4.34 gm, 32% | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC=CC2=CC=CC=C12)O | C22H23NO
